US07385059B2
A mixture of the ethyl ester (103 mg, 0.60 mmol), 4-(2,6-difluoro-benzoylamino)-1H-pyrazole-3-carboxylic acid (134 mg, 0.50 mmol), EDC (115 mg, 0.60 mmol) and HOBt (81 mg, 0.60 mmol) in DMF (5 ml) was stirred at ambient temperature for 16 hours. The mixture was reduced in vacuo, the residue taken up in EtOAc and washed successively with saturated aqueous sodium bicarbonate, water and brine. The organic portion was dried (MgSO4) and reduced in vacuo to give 4-{[4-(2,6-difluoro-benzoylamino)-1H-pyrazole-3-carbonyl]-amino}-cyclohexanecarboxylic acid ethyl ester (112 mg).

reactant | 4-(2,6-difluoro-benzoylamino)-1H-pyrazole-3-carboxylic acid | 0.50 mmol, 134 mg | FC1=C(C(=O)NC=2C(=NNC2)C(=O)O)C(=CC=C1)F | C11H7F2N3O3
reactant | EDC | 0.60 mmol, 115 mg
reactant | HOBt | 0.60 mmol, 81 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 4-{[4-(2,6-difluoro-benzoylamino)-1H-pyrazole-3-carbonyl]-amino}-cyclohexanecarboxylic acid ethyl ester | 112 mg | C(C)OC(=O)C1CCC(CC1)NC(=O)C1=NNC=C1NC(C1=C(C=CC=C1F)F)=O | C20H22F2N4O4
